US04681883
1-[3-[3-(Piperidinomethyl)phenoxy]propylamino]isoquinoline
3-[3-(Piperidinomethyl)phenoxy]propylamine (2.04 g) and 1-methylsulphonylisoquinoline (1.70 g) were fused at 135° C. for 51/4 hours. The cooled reaction mixture was taken up in methanol, filtered, evaporated and subjected to medium pressure column chromatography on silica (chloroform:methanol 1:19-second column using chloroform) to give the title compound (0.56 g) as an oil. This was treated with maleic acid (0.35 g) in warm ethanol to yield, on cooling, 1-[3-[3-(piperidinomethyl)phenoxy]propylamino]isoquinoline dimaleate (0.15 g), m.p. 103°-105° C. (recrystallised from ethanol).

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 2.04 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 1-methylsulphonylisoquinoline | 1.70 g | CS(=O)(=O)C1=NC=CC2=CC=CC=C12 | C10H9NO2S
solvent | methanol | CO | CH4O
product | 1-[3-[3-(Piperidinomethyl)phenoxy]propylamino]isoquinoline | 0.56 g | N1(CCCCC1)CC=1C=C(OCCCNC2=NC=CC3=CC=CC=C23)C=CC1 | C24H29N3O
